US07572799B2
Dimethyl 1-(2-isopropoxyethyl)-4-nitro-1H-pyrazole-3,5-dicarboxylate
Dimethyl 4-nitro-1H-pyrazole-3,5-dicarboxylate (11.4 g, 50 mmol) was dissolved in tetrahydrofuran (200 mL) and the solution treated with triphenylphosphine (14.4 g, 55 mmol) and 2-isopropoxyethanol (6.36 mL, 55 mmol). The mixture was cooled on an ice bath to 0° C. and diisopropyl azodicarboxylate (10.8 mL, 55 mmol) added dropwise over 10 minutes, keeping the temperature between 20° C. and 30° C. The reaction mixture was then stirred at room temperature for 30 minutes. The reaction mixture was concentrated in vacuo and the crude product azeotroped with dichloromethane to yield the title product. 1H NMR (CDCl3, 400 MHz) δ: 1.02 (d, 6H), 3.45 (m, 1H), 3.72 (t, 2H), 3.90 (s, 3H), 3.94 (s, 3H), 4.74 (t, 2H). MS ES+ m/z 216 [MH]+

reactant | Dimethyl 4-nitro-1H-pyrazole-3,5-dicarboxylate | 50 mmol, 11.4 g | [N+](=O)([O-])C=1C(=NNC1C(=O)OC)C(=O)OC | C7H7N3O6
reactant | triphenylphosphine | 55 mmol, 14.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-isopropoxyethanol | 55 mmol, 6.36 mL | C(C)(C)OCCO | C5H12O2
reactant | diisopropyl azodicarboxylate | 55 mmol, 10.8 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | Dimethyl 1-(2-isopropoxyethyl)-4-nitro-1H-pyrazole-3,5-dicarboxylate | C(C)(C)OCCN1N=C(C(=C1C(=O)OC)[N+](=O)[O-])C(=O)OC | C12H17N3O7
